US05910506
To dimethylformamide was added 237 mg of o-nitrobenzyl chloride and 228 mg of potassium iodide under ice-cooling, the mixture was allowed to warm up to room temperature and stirred for 20 minutes. Then, 400 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole (101b)was added, followed by addition of 152 mg of potassium carbonate. Then, the mixture was warmed up to 50° C., and allowed to react for 6 hours. After completion of the reaction, the mixture was diluted with water, extracted with diethyl ether, the extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. To thus-obtained oil were added 10 ml of ethanol and 20 ml of 36% hydrochloric acid, and the mixture was stirred at 90° C. for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, an aqueous sodium hydrogen carbonate solution was added, extracted with ethyl acetate, the extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The crystals were washed with diethyl ether, filtered, and 195 mg of 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(o-nitrobenzyl)-1H-imidazole (103c)was obtained (yield 47%). mp 160-166° C.

reactant | o-nitrobenzyl chloride | 237 mg | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | potassium iodide | 228 mg | [I-].[K+]
reactant | 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole | 400 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1)COCC1=CC=C(C=C1)OC)C(C)C | C21H22Cl2N2O2S
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(o-nitrobenzyl)-1H-imidazole | 195 mg, yield 47% | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1CC1=C(C=CC=C1)[N+](=O)[O-])CO)C(C)C | C20H19Cl2N3O3S
